US08283353B2
4′-(bromomethyl)-2′-fluorobiphenyl-2-carbonitrile
To a solution (150 mL) of 2′-fluoro-4′-(hydroxymethyl)biphenyl-2-carbonitrile (14.1 g) in toluene was added phosphorus tribromide (18.7 g) at room temperature, and the mixture was stirred for 16 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate, and the obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (15.3 g, 100%).

reactant | 2′-fluoro-4′-(hydroxymethyl)biphenyl-2-carbonitrile | 150 mL, 14.1 g | FC1=C(C=CC(=C1)CO)C=1C(=CC=CC1)C#N | C14H10FNO
reactant | phosphorus tribromide | 18.7 g | P(Br)(Br)Br | Br3P
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4′-(bromomethyl)-2′-fluorobiphenyl-2-carbonitrile | 15.3 g, 100% | BrCC1=CC(=C(C=C1)C=1C(=CC=CC1)C#N)F | C14H9BrFN
